* D4 rev E aux flyback — drawn circuit (matrix) VIN=560 50kw Lp×1 · D4E:ETD44/38:6:4:4/Lp345u±5%/Llk4+1u/Rcs0.28/CS1k-100p/CL33k-10n/DCLA1700V
VIN vin 0 DC 560
* transformer: primary leakage at the acceptance maximum; the layout allowance sits in the rectifier loops (×n²)
LLK vin p1 0.000004
RLLK vin p1 20k
RPRI p1 p2 0.45
LM p2 sw 0.000341
LS24 0 a24 0.000008501385041551247
LS15 0 a15 0.000003778393351800554
LSAX 0 aax 0.000003778393351800554
K1 LM LS24 0.99999
K2 LM LS15 0.99999
K3 LM LSAX 0.99999
K4 LS24 LS15 0.99999
K5 LS24 LSAX 0.99999
K6 LS15 LSAX 0.99999
RS24 a24 b24 0.015
LL24 b24 c24 2.4930747922437675e-8
RLL24 b24 c24 20
RS15 a15 b15 0.012
LL15 b15 c15 1.1080332409972298e-8
RLL15 b15 c15 20
RSAX aax bax 0.05
VD24 c24 d24 0
D24 d24 v24c DUF
VD15 c15 d15 0
D15 d15 v15 DUF
VDVC bax dvc 0
DVC dvc vcc DUF2
.model DUF D(Is=1e-9 N=1.7 Rs=0.03 BV=1000 IBV=1m Cjo=30p TT=20n)
.model DUF2 D(Is=1e-9 N=1.7 Rs=0.08 BV=400 IBV=1m Cjo=15p TT=20n)
C24 v24c 0 220u ic=23.5
RAUX24 v24c v24 0.05
CV24 v24 0 10n ic=23.5
C15 v15 0 220u ic=15.3
CVCC vcc 0 220u ic=15.4
IVCC vcc 0 0.0035
BL24 v24 0 I=max(v(v24),0)/24*(0.45+0.65*u(time-0.012))
RL15 v15 0 13.636363636363635
* rail TVS as drawn: SMBJ28A on V24 (V_BR 31.1 V min at 1 mA), SMBJ18A on V15 (V_BR 20.0 V min at 1 mA)
DTVS24 0 v24 DTV24
DTVS15 0 v15 DTV15
.model DTV24 D(Is=1e-12 N=1 BV=31.1 IBV=1m Rs=0.3)
.model DTV15 D(Is=1e-12 N=1 BV=20.0 IBV=1m Rs=0.2)

.model SWSH SW(Ron=10m Roff=1e9 Vt=0.5 Vh=0.1)
* QAUX: VSW = drain current, VS1 = channel current (the node capacitance discharges through the channel)
VSW sw d 0
VS1 d s1 0
S1 s1 csn gdrv 0 SWSIC
.model SWSIC SW(Ron=1.4 Roff=1e9 Vt=1.5 Vh=0.05)
CSW d csn 60p
DBODY csn d DBD
.model DBD D(Is=1e-12 N=1.5 Rs=0.2 BV=2000)
RCS csn 0 0.28
* current sense as drawn: RCSF / CCSF + the NCP1252 internal 3.5 V ramp through 26.5 k
RCSF csn cs 1000
CCSF cs 0 1e-10
BRAMP rmp 0 V=3.5*(time*65000-floor(time*65000))
RRAMP rmp cs 26500
* RCD clamp as drawn (DCLA breakdown at its voltage class: an avalanche shows, it does not hide)
VDC sw dca 0
DCLA dca cl DSIC
.model DSIC D(Is=1e-14 N=1.4 Rs=0.5 BV=1700 IBV=1u Cjo=20p)
CCLA cl vin 1e-8
RCLA cl vin 33000
* drawn feedback loop: VCC → RZFB 2.2k → DZAUX 15 V → QAUXFB base (RBEFB 10k) → FB; CFBF 1 nF; FB pull-up 3.5k / 40k internal
RZFB vcc zk 2.2k
DZ qb zk DZ15
.model DZ15 D(Is=1e-12 N=1 BV=15 IBV=1m Rs=5)
RBE qb 0 10k
Q1 fb qb 0 QN
.model QN NPN(Bf=200 Is=1e-14 Vaf=100 Cjc=5p Cje=5p)
CFB fb 0 1n
VFBI fbi 0 6.525
RPU fbi fb 3.5k
RZI fb 0 40k
* soft start completed (SS/4 above the 1 V limit; the cold start itself is bench T-29)
CSS ss 0 100n ic=4
ISS 0 ss 10u
DSS ss ssc DSW
VSSC ssc 0 4.0
.model DSW D(Is=1e-14 N=1)
* NCP1252 PWM latch: clock set · LEB · reset on CS ≥ min(1 V, FB/3, SS/4), DCmax, skip (FB < 0.3 V), fault-off
VONE one 0 1
VCLK clk 0 PULSE(0 1 0 1n 1n 30n 0.000015384615384615384)
VLEB leb 0 PULSE(0 1 0 1n 1n 1.6e-7 0.000015384615384615384)
VDMX dmx 0 PULSE(0 1 0.000007015384615384615 1n 1n 30n 0.000015384615384615384)
BRC rcr 0 V=((v(cs) > min(1, min(v(fb)/3, v(ss)/4))) && (v(leb) < 0.5)) || (v(dmx) > 0.5) || (v(fb) < 0.3) || (v(off) > 0.5) ? 1 : 0
RRC rcr rc 1k
CRC rc 0 1p
SSET one q clk 0 SWL
SHLD one qh q 0 SWL
RHLD qh q 2k
SRST q 0 rc 0 SWR
.model SWL SW(Ron=100 Roff=1e9 Vt=0.5 Vh=0.1)
.model SWR SW(Ron=20 Roff=1e9 Vt=0.5 Vh=0.1)
.model SWF SW(Ron=1 Roff=1e9 Vt=0.5 Vh=0.1)
CQ q 0 10p
* DRV: fast turn-on (10 Ω), tILIM typ 70 ns turn-off delay (100 Ω · 1 nF from 3 V to the 1.5 V threshold)
BGD gd0 0 V=v(q) > 0.5 ? 3 : 0
DGON gd0 gon DSW
RGON gon gdrv 10
RGOF gd0 gdrv 100
CG gdrv 0 1n
* fault timer: CS > FCS after LEB → flag held 3 periods → Tfault 10 ms (min) → permanent off (latched)
BFC fc 0 V=((v(cs) > 1) && (v(leb) < 0.5)) ? 1 : 0
SFL one flag fc 0 SWF
RFLG flag 0 46154
CFLG flag 0 1n
BTIM 0 tim I=(v(flag) > 0.3) ? 1e-9/0.01 : -1e-9*v(tim)/20e-6
CTIM tim 0 1n ic=0
SOFF one off tim 0 SWT
.model SWT SW(Ron=100 Roff=1e9 Vt=1.0 Vh=0.05)
SOFH one offh off 0 SWL
ROFH offh off 1k
COFF off 0 10p
ROFL off 0 1e8
.tran 1u 0.02 0 2e-8 uic
.option method=gear reltol=1e-3 abstol=1e-7 vntol=1e-5 itl4=200
.save v(vin) v(sw) v(d) v(s1) v(csn) v(cl) v(v24) v(v24c) v(v15) v(vcc) v(off) v(p1) v(p2) v(a24) v(b24) v(a15) v(b15) v(aax) v(bax) v(d24) v(d15) v(dvc) v(dca) i(VIN) i(VS1) i(VD24) i(VD15) i(VDVC) i(VDC) i(LM) i(LLK)
.control
set filetype=ascii
run
* energy balance on the simulator's own time points: source = channel + sense R + clamp + windings + rectifiers + rail inputs
let pin = -i(VIN)*v(vin)
let psw = (v(s1)-v(csn))*i(VS1)
let pcl = (v(dca)-v(cl))*i(VDC) + (v(cl)-v(vin))*(v(cl)-v(vin))/33000
let pout = v(v24c)*i(VD24) + v(v15)*i(VD15) + v(vcc)*i(VDVC)
let psum = psw + v(csn)*v(csn)/0.28 + pcl + (v(p1)-v(p2))*(v(p1)-v(p2))/0.45 + (v(a24)-v(b24))*(v(a24)-v(b24))/0.015 + (v(a15)-v(b15))*(v(a15)-v(b15))/0.012 + (v(aax)-v(bax))*(v(aax)-v(bax))/0.05 + (v(d24)-v(v24c))*i(VD24) + (v(d15)-v(v15))*i(VD15) + (v(dvc)-v(vcc))*i(VDVC) + pout
let vr = v(cl)-v(sw)
let vc = v(cl)-v(vin)
meas tran PIN avg pin from=16m to=20m
meas tran PSUM avg psum from=16m to=20m
meas tran POUT avg pout from=16m to=20m
meas tran PSW avg psw from=16m to=20m
meas tran PCL avg pcl from=16m to=20m
meas tran V24S avg v(v24) from=9m to=12m
meas tran V24DIP min v(v24) from=12m to=14m
meas tran V24MAX max v(v24) from=9m to=0.02
meas tran V15MIN min v(v15) from=12m to=16m
meas tran VDSMAX max v(sw) from=0.004 to=0.02
meas tran VRMAX max vr from=0.004 to=0.02
meas tran VCMAX max vc from=0.004 to=0.02
meas tran ILMMAX max i(LM) from=0.004 to=0.02
meas tran ILKMAX max i(LLK) from=0.004 to=0.02
meas tran OFFEND max v(off) from=0.019 to=0.02
linearize v(v24) v(v15)
wrdata aux-50kw-560.out v(v24) v(v15)
quit
.endc
.end